US09355765B2
5.0 g PdCl2 and 100 g molten caprolactam having a purity not less than 80% and a moisture not more than 20% are added to a reactor, and then stirred for 30 min at the temperature of 100° C., so that PdCl2 is fully dissolved in a molten caprolactam solvent. 1 g NaOH is rapidly added under stirring for the purpose of reaction for 2 h at the temperature of 100° C., and then, 2 g KBH4 is added for continuous reaction for 2 h to obtain nano Pd/caprolactam mixture.

reactant | PdCl2 | 5.0 g | Cl[Pd]Cl
reactant | NaOH | 1 g | [OH-].[Na+]
reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
product | Pd caprolactam | [Pd].C1(CCCCCN1)=O | InChI=1S/C6H11NO.Pd/c8-6-4-2-1-3-5-7-6;/h1-5H2,(H,7,8);
